US06951867B2
Step 1. Ethyl 2-amino-6-[(2,2-dimethylpropanoyl)amino]nicotinate
To a stirred solution of ethyl 6-[(2,2-dimethylpropanoyl)amino]-2-fluoronicotinate (M. C. Coldwell et al., Bioorg. Med. Chem. Lett., 1995, 39, 5, 1.5 g, 5.59 mmol) in 2-propanol (16 mL) was added 25% aqueous ammonia (4 mL) and the mixture was heated in a sealed tube at 70° C. for 4.5 h. After cooling to room temperature, water was added and the mixture was extracted with ethyl acetate. The separated organic layer was concentrated in vacuo and the residue was chromatographed on a column of silica gel eluting with ethyl acetate/pentane (1:6 to 1:2) to give 810 mg (55%) of the title compound as a white solid.

reactant | ethyl 6-[(2,2-dimethylpropanoyl)amino]-2-fluoronicotinate | 5.59 mmol, 1.5 g | CC(C(=O)NC1=NC(=C(C(=O)OCC)C=C1)F)(C)C | C13H17FN2O3
reactant | ammonia | 4 mL | N | H3N
reactant | water | O | H2O
solvent | 2-propanol | 16 mL | CC(C)O | C3H8O
product | Ethyl 2-amino-6-[(2,2-dimethylpropanoyl)amino]nicotinate | 810 mg, 55% | NC1=C(C(=O)OCC)C=CC(=N1)NC(C(C)(C)C)=O | C13H19N3O3
